US08236826B2
Production of N-[6-(4-aminophenoxy)pyridin-3-yl]-3,4-dichlorobenzamide dihydrochloride
t-Butyl{4-[5-(3,4-dichlorobenzoylamino)-pyridin-2-yloxy]phenyl}carbamate (4.31 g, 9.09 mmol) was dissolved in a mixed solution of chloroform-methanol-ethyl acetate. The resulting solution was concentrated to a volume of about 20 mL. To the residue solution was added a solution of 4 N hydrogen chloride in ethyl acetate (70 mL), and left to cool for 2 hours at room temperature. The precipitated white powder was filtered, and washed with ethyl acetate, to thereby yield 4.04 g of the title compound.

reactant | t-Butyl{4-[5-(3,4-dichlorobenzoylamino)-pyridin-2-yloxy]phenyl}carbamate | 9.09 mmol, 4.31 g | C(C)(C)(C)OC(NC1=CC=C(C=C1)OC1=NC=C(C=C1)NC(C1=CC(=C(C=C1)Cl)Cl)=O)=O | C23H21Cl2N3O4
solvent | chloroform methanol ethyl acetate | C(Cl)(Cl)Cl.CO.C(C)(=O)OCC
product | N-[6-(4-aminophenoxy)pyridin-3-yl]-3,4-dichlorobenzamide dihydrochloride | Cl.Cl.NC1=CC=C(OC2=CC=C(C=N2)NC(C2=CC(=C(C=C2)Cl)Cl)=O)C=C1 | InChI=1S/C18H13Cl2N3O2.2ClH/c19-15-7-1-11(9-16(15)20)18(24)23-13-4-8-17(22-10-13)25-14-5-2-12(21)3-6-14;;/h1-10H,21H2,(H,23,24);2*1H
